US07109229B2
(a) 3-(6-Cyano-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)-acetamide (0.410 g, 2.18 mmol) and (6-cyano-1H-indol-3-yl)-oxo-acetic acid methyl ester (0.480 g, 2.10 mmol) in DMF (30 mL) under N2 was added a 1.0 M solution of potassium-tert-butoxide in THF (7.6 mL, 7.6 mmol) dropwise over 5 minutes. The mixture was heated at 70° C. for 17 h. The mixture was cooled to room temperature, quenched with 1N HCl (excess) and poured into EtOAc. The organic layer was separated, washed with water (3×), saturated aq NaHCO3, and brine, dried (MgSO4), filtered and concentrated onto flash SiO2. Flash chromatography (60–70% EtOAc/hex) gave the title compound as a bright orange-red solid which was dried under vacuum at 75° C. overnight (0.416 g, 54%). 1H NMR (400 MHz, DMSO-d6) 12.29 (br s, 1H), 11.26 (s, 1H), 8.03 (d, J=2.3 Hz, 1H), 7.86 (br s, 1H), 7.63 (d, J=8 Hz, 1H), 7.25 (d, J=3 Hz, 1H), 6.99 (dd, J=8, 8 Hz, 1H), 6.91 (d, J=8 Hz, 1H), 6.89 (d, J=8 Hz, 1H), 6.60 (d, J=8 Hz, 1H), 6.49 (d, J=3 Hz, 1H), 3.66 (s, 3H). IR (KBR, cm−1) 3282, 2223, 1751, 1698. MS (electrospray, m/z) 367.1 (M++1), 365.2 (M−−1). HRMS 367.1190 (M++1, calcd for C22H15N4O2 367.1195).

reactant | 2-(1-methyl-1H-indol-7-yl)-acetamide | 2.18 mmol, 0.410 g | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | (6-cyano-1H-indol-3-yl)-oxo-acetic acid methyl ester | 2.10 mmol, 0.480 g | COC(C(=O)C1=CNC2=CC(=CC=C12)C#N)=O | C12H8N2O3
reactant | potassium-tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 7.6 mmol, 7.6 mL | C1CCOC1 | C4H8O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-(6-Cyano-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)-pyrrole-2,5-dione | C(#N)C1=CC=C2C(=CNC2=C1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C22H14N4O2
